US08058245B2
2,3,4,6-Tetra-O-benzyl-1-[3-(2-phenylethyl)benzo[b]thiophen-5-yl]-D-glucopyranose
To a solution of 5-bromo-3-(2-phenylethyl)benzo[b]-thiophene (0.94 g) in tetrahydrofuran (25 mL) was added n-butyllithium (2.44 mol/L n-hexane solution, 1.24 mL) at −78° C. under an argon atmosphere, and the mixture was stirred at the same temperature for 5 minutes. To the reaction mixture was added a solution of 2,3,4,6-tetra-O-benzyl-D-glucono-1,5-lactone (0.80 g) in tetrahydrofuran (4 mL), and the mixture was warmed to 0° C. and stirred for 30 minutes. The reaction mixture was poured into a saturated ammonium chloride aqueous solution, and the mixture was extracted with diethyl ether. The organic layer was washed with water and brine and dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=4/1-3/1) to give the title compound (1.1 g).

reactant | 5-bromo-3-(2-phenylethyl)benzo[b]-thiophene | 0.94 g | BrC1=CC2=C(SC=C2CCC2=CC=CC=C2)C=C1 | C16H13BrS
reactant | n-butyllithium | 2.44 mol/L, 1.24 mL | C(CCC)[Li]
reactant | 2,3,4,6-tetra-O-benzyl-D-glucono-1,5-lactone | 0.80 g | C(C1=CC=CC=C1)O[C@H]1C(=O)O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1 | C34H34O6
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | 2,3,4,6-Tetra-O-benzyl-1-[3-(2-phenylethyl)benzo[b]thiophen-5-yl]-D-glucopyranose | 1.1 g | C(C1=CC=CC=C1)O[C@H]1C(O)(O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)C1=CC2=C(SC=C2CCC2=CC=CC=C2)C=C1 | C50H48O6S
